US04724237
Preparation of 1-methyl-2-[2-amino-3-(1H-indol-3-yl)propanoyl]aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine dihydrochloride sesquihydrate
1-Methyl-2-[2-((1,1-dimethylethoxy)carbonyl)amino-3-(1H-indol-3-yl)propanoyl]aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (50 mg, 0.08 mmole) was dissolved in 2 ml of ethyl acetate, cooled to 0° C. and treated with hydrogen chloride gas for 1 hour. The solvent and excess hydrogen chloride were removed under reduced pressure to give the product as a foam which was 96% pure by HPLC.

reactant | 1-Methyl-2-[2-((1,1-dimethylethoxy)carbonyl)amino-3-(1H-indol-3-yl)propanoyl]aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.08 mmole, 50 mg | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CNC(C(CC2=CNC1=CC=CC=C21)NC(=O)OC(C)(C)C)=O | C33H36FN5O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 1-methyl-2-[2-amino-3-(1H-indol-3-yl)propanoyl]aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine dihydrochloride sesquihydrate | O.Cl.Cl.CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CNC(C(CC2=CNC1=CC=CC=C21)N)=O.O.O.CN2C(CN=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)CNC(C(CC1=CNC2=CC=CC=C12)N)=O.Cl.Cl | InChI=1S/2C28H28FN5O.4ClH.3H2O/c2*1-34-19(17-33-28(35)24(30)14-18-15-31-25-12-6-3-8-20(18)25)16-32-27(21-9-2-5-11-23(21)29)22-10-4-7-13-26(22)34;;;;;;;/h2*2-13,15,19,24,31H,14,16-17,30H2,1H3,(H,33,35);4*1H;3*1H2
